US07232821B2
6-{2-[5-Fluoro-2-(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid 4-fluorobenzyl ester
Prepared by general procedure 5 but using 6-{2-[5-fluoro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid instead of 6-{2-[5-chloro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid, 4-fluorobenzyl bromide instead of 4-chlorobenzyl bromide and with acetone as solvent instead of 2-butanone.

reactant | 6-{2-[5-fluoro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid | FC=1C=CC(=C(C1)C1=C(CCC1)C1=CC=CC(=N1)C(=O)O)O | C17H14FNO3
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 2-butanone | CC(CC)=O | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 6-{2-[5-Fluoro-2-(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid 4-fluorobenzyl ester | FC1=CC=C(COC(=O)C2=NC(=CC=C2)C2=C(CCC2)C2=C(C=CC(=C2)F)OCC2=CC=C(C=C2)F)C=C1 | C31H24F3NO3
